### PR TITLE
[Merged by Bors] - feat: port Analysis.Calculus.Fderiv.Comp

### PR DESCRIPTION
**Pull request by mcdoll**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by jcommelin — COMMENTED** [review]
bors d+

File: Mathlib/Analysis/Calculus/FDeriv/Comp.lean [hunk 1]
```diff
@@ -0,0 +1,265 @@
...
+      (fun x' => g (f x') - g (f x) - g' (f x' - f x)) =o[L] fun x' => f x' - f x :=
+        hg.comp_tendsto le_rfl
+      _ =O[L] fun x' => x' - x := hf.isBigO_sub
+  refine' this.triangle _
+  calc
+    (fun x' : E => g' (f x' - f x) - g'.comp f' (x' - x)) =ᶠ[L] fun x' =>
+        g' (f x' - f x - f' (x' - x)) :=
+      eventually_of_forall fun x' => by simp
+    _ =O[L] fun x' => f x' - f x - f' (x' - x) := (g'.isBigO_comp _ _)
+    _ =o[L] fun x' => x' - x := hf
```
Comment (urkud) [inline Mathlib/Analysis/Calculus/FDeriv/Comp.lean:89]:
```suggestion
/- porting note: todo: restore the example
Compile fails because `calc` fails to generate a `Trans` instance
example {g : F → G} {g' : F →L[𝕜] G} (hg : HasFDerivAtFilter g g' (f x) (L.map f))
    (hf : HasFDerivAtFilter f f' x L) : HasFDerivAtFilter (g ∘ f) (g'.comp f') x L := by
  unfold HasFDerivAtFilter at hg
  have :=
    calc
      (fun x' => g (f x') - g (f x) - g' (f x' - f x)) =o[L] fun x' => f x' - f x :=
        hg.comp_tendsto le_rfl
      _ =O[L] fun x' => x' - x := hf.isBigO_sub
  refine' this.triangle _
  calc
    (fun x' : E => g' (f x' - f x) - g'.comp f' (x' - x)) =ᶠ[L] fun x' =>
        g' (f x' - f x - f' (x' - x)) :=
      eventually_of_forall fun x' => by simp
    _ =O[L] fun x' => f x' - f x - f' (x' - x) := (g'.isBigO_comp _ _)
    _ =o[L] fun x' => x' - x := hf
-/
```
